US07163937B2
Preparation H6, Step 3: To a soultion of 3-tert-butyl-5-((2-cyanoethyl)carbamoyl)benzoat (520 mg, 1.8 mmol) in MeCN (15 mL) at 0° C. was added NaN3 (117 mg, 1.8 mmol), and Tf20 (0.3 mL, 1.8 mm0l). The mixture was stirred at rt for 16 h before aq NaHCO3 and EtOAc were added. The organic layer was separated and re-washed twice before it was collected, dried over Na2SO4, and concentrated to methyl 3-tert-butyl-5-(2-(2-cyanoethyl)-2H-tetrazol-5-yl)benzoate as an oil (450 mg, 80% yield). MS found: (M+H)+=314.

reactant | 3-tert-butyl-5-((2-cyanoethyl)carbamoyl)benzoat | 1.8 mmol, 520 mg | C(C)(C)(C)C=1C=C(C(=O)[O-])C=C(C1)C(NCCC#N)=O
reactant | NaN3 | 1.8 mmol, 117 mg | [N-]=[N+]=[N-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | MeCN | 15 mL | CC#N | C2H3N
product | methyl 3-tert-butyl-5-(2-(2-cyanoethyl)-2H-tetrazol-5-yl)benzoate | 450 mg, 80% yield | C(C)(C)(C)C=1C=C(C(=O)OC)C=C(C1)C=1N=NN(N1)CCC#N | C16H19N5O2
